US20010000345A1
The methyl N-carbomethoxy-N,N′-dimethylthiopseudourea is combined with 8-methyl-7-nitroquinoline, as prepared in Example 7B, in 10% acetic acid in ethanol and heated to reflux. After the starting amine is consumed, the mixture is decolorized with carbon. The mixture is cooled, filtered and rotary evaporated. Upon recrystallization and drying, N,N′-dimethyl-(8-methylquinolin-7-yl)guanidine is obtained as an acetic acid salt.

reactant | methyl N-carbomethoxy-N,N′-dimethylthiopseudourea | CSC(N(C)C(=O)OC)=NC | C6H12N2O2S
reactant | 8-methyl-7-nitroquinoline | CC=1C(=CC=C2C=CC=NC12)[N+](=O)[O-] | C10H8N2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | N,N′-dimethyl-(8-methylquinolin-7-yl)guanidine | CN(C(=N)NC)C1=CC=C2C=CC=NC2=C1C | C13H16N4
